US03934008
4. H-Thr(tBu)-Gln-Asn-Phe-OCH3
6.31 g of Z-Thr(tBu)-Gln-Asn-Phe-OCH3 and 700 mg of palladium carbon are hydrogenated together at room temperature in 600 ml of methanol in a shaking vessel. The substance gradually passes into solution. The amorphous evaporation residue is used for the next condensation as it is.

reactant | Z-Thr(tBu)-Gln-Asn-Phe-OCH3 | 6.31 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C35H48N6O10
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium carbon | 700 mg | [C].[Pd]
product | H-Thr(tBu)-Gln-Asn-Phe-OCH3 | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C27H42N6O8
